US07572808B2
Preparation of 7-(4-chlorophenyl)-8-(4-(1-(hydroxyimino)ethyl)phenyl)-2-((6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one
To a stirred solution of 8-(4-acetylphenyl)-7-(4-chlorophenyl)-2-((6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one (43.3 mg, 0.083 mmol) in THF (2 mL) and water (2 mL) at room temperature was added hydroxylamine hydrochloride (11.5 mg, 0.17 mmol). After 108 h, the reaction mixture was diluted with water and extracted twice with EtOAc. The organic extracts are combined, dried (MgSO4), filtered and evaporated. Purification by preparative reverse phase HPLC (methanol-water-trifluoroacetic acid), pooling the fractions, evaporating, redissolving the residuum in dichloromethane, washing with saturated aq. NaHCO3 solution, drying (MgSO4), filtering and evaporating provided the title compound as a yellow solid, 38 mg, 85%. HPLC/MS: retention time=3.38 min, [M+H]+=538. 1H NMR (CDCl3): δ 8.79 (d, J=1.8 Hz, 1H), 8.62 (br s, 1H), 7.92 (dd, J=1.8, 8.0 Hz, 1H), 7.84 (d, J=7.0 Hz, 2H), 7.66 (d, J=7.9 Hz, 1H), 7.57 (dd, J=2.2, 6.6 Hz, 2H), 7.23 (m, 5H), 7.06 (d, J=6.6 Hz, 2H), 6.65 (d, J=7.1 Hz, 1H), 5.27 (s, 2H), 2.25 (s, 3H).

reactant | 8-(4-acetylphenyl)-7-(4-chlorophenyl)-2-((6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | 0.083 mmol, 43.3 mg | C(C)(=O)C1=CC=C(C=C1)C=1C=2N(C=CC1C1=CC=C(C=C1)Cl)C(N(N2)CC=2C=NC(=CC2)C(F)(F)F)=O | C27H18ClF3N4O2
reactant | hydroxylamine hydrochloride | 0.17 mmol, 11.5 mg | Cl.NO
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | water | 2 mL | O | H2O
product | 7-(4-chlorophenyl)-8-(4-(1-(hydroxyimino)ethyl)phenyl)-2-((6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | ClC1=CC=C(C=C1)C1=C(C=2N(C=C1)C(N(N2)CC=2C=NC(=CC2)C(F)(F)F)=O)C2=CC=C(C=C2)C(C)=NO | C27H19ClF3N5O2
